US08629169B2
Preparation 10: Di-tert-butyl (1S,2R,3S,4R,5R,6R)-2-[(tert-butoxycarbonyl)amino]-3-{[(4-fluoro-3-methyl-phenyl)sulfanyl]methyl}-4-hydroxybicyclo[3.1.0]hexane-2,6-dicarboxylate
Di-tert-butyl (1S,2R,5R,6R)-2-(tert-butoxycarbonylamino)-3-methylene-4-oxo-bicyclo[3.1.0]hexane-2,6-dicarboxylate (8 g, 18.9 mmol) in diethyl ether (80 mL) is bubbled with nitrogen gas for 10 minutes. 4-fluoro-3-methyl-benzenethiol (2.7 g, 18.9 mmol) and triethylamine (0.26 mL, 1.89 mmol) are added. The mixture is warmed to 40° C. and stirred for 15 minutes. The mixture is then allowed to cool to ambient temperature, transferred to addition funnel and added slowly over 2 hours to a 200 ml ether solution at −10° C. which contains S-(−)-2-methyl-CBS-oxazaborolidine (1M in tetrahydrofuran) (5.67 mL, 5.67 mmol) and borane-methyl sulfide complex (2M in tetrahydrofuran, 8.5 mL, 17 mmol). The mixture is stirred for an additional hour after final addition. Silica gel (40 g) is added over 30 minutes and the reaction mixture is gradually warmed to ambient temperature. The suspension is filtered, and washed with 300 ml of diethyl ether. The solvent is concentrated under reduced pressure giving a residue. The residue is purified by flash chromatography, eluting with (0 to 25% ethyl acetate/hexanes) to give the title compound (9.8 g, 17.3 mmol, 91.5% yield). MS (m/z): 565.8 (M−H).

reactant | Di-tert-butyl (1S,2R,5R,6R)-2-(tert-butoxycarbonylamino)-3-methylene-4-oxo-bicyclo[3.1.0]hexane-2,6-dicarboxylate | 18.9 mmol, 8 g | C(C)(C)(C)OC(=O)N[C@@]1([C@@H]2[C@H]([C@@H]2C(C1=C)=O)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C22H33NO7
reactant | 4-fluoro-3-methyl-benzenethiol | 18.9 mmol, 2.7 g | FC1=C(C=C(C=C1)S)C | C7H7FS
reactant | triethylamine | 1.89 mmol, 0.26 mL | C(C)N(CC)CC | C6H15N
reactant | S-(−)-2-methyl-CBS-oxazaborolidine | 5.67 mmol, 1M, 5.67 mL | B1(N2CCC[C@H]2C(O1)(C3=CC=CC=C3)C4=CC=CC=C4)C | C18H20BNO
reactant | borane methyl sulfide | 17 mmol, 2M, 8.5 mL | B.CSC
solvent | diethyl ether | 80 mL | C(C)OCC | C4H10O
solvent | ether | 200 ml | CCOCC | C4H10O
product | Di-tert-butyl (1S,2R,3S,4R,5R,6R)-2-[(tert-butoxycarbonyl)amino]-3-{[(4-fluoro-3-methyl-phenyl)sulfanyl]methyl}-4-hydroxybicyclo[3.1.0]hexane-2,6-dicarboxylate | 17.3 mmol, 9.8 g, 91.5% yield | C(C)(C)(C)OC(=O)N[C@@]1([C@@H]2[C@H]([C@@H]2[C@H]([C@H]1CSC1=CC(=C(C=C1)F)C)O)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C29H42FNO7S
